US07378417B2
7-Chloro-5-(4-chloro-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid(3-methanesulfonyl-phenyl)-amide
The title compound was prepared from 7-chloro-5-(4-chloro-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carbonyl chloride and 3-methanesulfonyl-phenylamine according to general procedure II. Pale-yellow solid. MS (ISP) 461.3 [(M+H)+]; mp 253-255° C.

reactant | 7-chloro-5-(4-chloro-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carbonyl chloride | ClC1=CC(=NC=2N1N=CC2C(=O)Cl)C2=CC=C(C=C2)Cl | C13H6Cl3N3O
reactant | 3-methanesulfonyl-phenylamine | CS(=O)(=O)C=1C=C(C=CC1)N | C7H9NO2S
product | 7-Chloro-5-(4-chloro-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid(3-methanesulfonyl-phenyl)-amide | CS(=O)(=O)C=1C=C(C=CC1)NC(=O)C=1C=NN2C1N=C(C=C2Cl)C2=CC=C(C=C2)Cl | C20H14Cl2N4O3S
